US06306870B1
(E)-(R)-1-[1-(2,3-Dihydrobenzofuran-5-yl)-1,3,4,9-tetrahydro-β-carbolin-2-yl]-3-(4-(3-dimethylamino-2-hydroxypropoxy)phenyl)propene-1-one
At 0° C. to a solution (E)-(R)-1-[1-(2,3-dihydrobenzofuran-5-yl)-1,3,4,9-tetrahydro-β-carbolin-2-yl]-3-(4-(2-(tertbutyldimethylsilanyloxy)-3-dimethylamino-2-hydroxy-propoxy)phenyl)propene-1-one (0.4 g, 0.6 mmol) in 50 mL of anhydrous THF was added tetrabutylammonium fluoride (0.6 mL, 1 equiv., 1 M in THF). The resulting mixture was stirred at rt for one day. Quenching with water, extraction with DCM, washing with brine, drying over MgSO4 and concentration in vacuo gave an oil. Recrystallization from iPrOH:H2O gave the title compound (0.2 g, 62%) as an off-white powder.

reactant | (E)-(R)-1-[1-(2,3-dihydrobenzofuran-5-yl)-1,3,4,9-tetrahydro-β-carbolin-2-yl]-3-(4-(2-(tertbutyldimethylsilanyloxy)-3-dimethylamino-2-hydroxy-propoxy)phenyl)propene-1-one | 0.6 mmol, 0.4 g | O1CCC2=C1C=CC(=C2)C2N(CCC=1C3=CC=CC=C3NC21)C(\C=C\C2=CC=C(C=C2)OC[C@](CN(C)C)(O)O[Si](C)(C)C(C)(C)C)=O | C39H49N3O5Si
reactant | tetrabutylammonium fluoride | 1 M, 0.6 mL, 1 equiv. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (E)-(R)-1-[1-(2,3-Dihydrobenzofuran-5-yl)-1,3,4,9-tetrahydro-β-carbolin-2-yl]-3-(4-(3-dimethylamino-2-hydroxypropoxy)phenyl)propene-1-one | 0.2 g, 62% | O1CCC2=C1C=CC(=C2)C2N(CCC=1C3=CC=CC=C3NC21)C(\C=C\C2=CC=C(C=C2)OC[C@@H](CN(C)C)O)=O | C33H35N3O4
